US03969402
2-(2-hydroxy-4-biphenylyl)propionic acid was mixed with an equivalent amount of aqueous sodium hydroxide. The mixture was evaporated to dryness to give sodium 2-(2-hydroxy-4-biphenylyl)propionate, m.p. 230 (decomposed) °C.

reactant | 2-(2-hydroxy-4-biphenylyl)propionic acid | OC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H14O3
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium 2-(2-hydroxy-4-biphenylyl)propionate | OC1=C(C=CC(=C1)C(C(=O)[O-])C)C1=CC=CC=C1.[Na+] | InChI=1S/C15H14O3.Na/c1-10(15(17)18)12-7-8-13(14(16)9-12)11-5-3-2-4-6-11;/h2-10,16H,1H3,(H,17,18);/q;+1/p-1
